US06384220B2
A solution of 3-cyclopentyl-2-(4-morpholin-4-yl-phenyl)-propionic acid methyl ester (210.8 mg, 0.66 mmol) in tetrahydrofuran (830 μL) was treated with a 0.8M aqueous lithium hydroxide solution (1.2 mL). The reaction mixture was stirred at 25° C. for 23 h and then concentrated in vacuo to remove tetrahydrofuran. The white residue was acidified to pH=2 with a 10% aqueous hydrochloric solution. The resulting aqueous phase was extracted with ethyl acetate (2×75 mL). The combined organic extracts were washed with a saturated aqueous sodium chloride solution (1×100 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Trituration from hexanes/diethyl ether afforded 3-cyclopentyl-2-(4-morpholin-4-yl-phenyl)-propionic acid (173.7 mg, 86%) as a white solid: mp 145-147° C.; EI-HRMS m/e calcd for C18H25NO3 (M+) 303.1834, found 303.1843.

reactant | 3-cyclopentyl-2-(4-morpholin-4-yl-phenyl)-propionic acid methyl ester | 0.66 mmol, 210.8 mg | COC(C(CC1CCCC1)C1=CC=C(C=C1)N1CCOCC1)=O | C19H27NO3
reactant | lithium hydroxide | 0.8M, 1.2 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 830 μL | O1CCCC1 | C4H8O
product | 3-cyclopentyl-2-(4-morpholin-4-yl-phenyl)-propionic acid | 173.7 mg, 86% | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)N1CCOCC1 | C18H25NO3
